US08629169B2
Preparation 2: Di-tert-butyl (1S,2R,5R,6R)-2-[(tert-butoxycarbonyl)amino]-3-methylidene-4-oxobicyclo[3.1.0]hexane-2,6-dicarboxylate
To a solution of di-tert-butyl (1S,2R,5R,6R)-2-(tert-butoxycarbonylamino)-3-(dimethylaminomethylene)-4-oxo-bicyclo[3.1.0]hexane-2,6-dicarboxylate (15.7 g, 33.8 mmol) in tetrahydrofuran (340 ml) is added triethylamine (6.6 mL, 47.32 mmol). The mixture is cooled to −78° C. Diisobutylaluminium hydride (1N in toluene, 50 mL, 50 mmol) is added over one hour. The mixture is stirred for two additional hours. Then add 30 mL of saturated aqueous ammonium chloride. The mixture is allowed to warm to ambient temperature. The mixture is transferred to a separatory funnel and washed with brine. The organic layer is dried over MgSO4, filtered, and concentrated under reduced pressure to give a residue. The residue is purified by flash chromatography (0 to 50% ethyl acetate/hexanes) to give the title compound (12 g, 33.34 mmol, 83.8% yield). MS (m/z): 422 (M−H).

reactant | di-tert-butyl (1S,2R,5R,6R)-2-(tert-butoxycarbonylamino)-3-(dimethylaminomethylene)-4-oxo-bicyclo[3.1.0]hexane-2,6-dicarboxylate | 33.8 mmol, 15.7 g | C(C)(C)(C)OC(=O)N[C@@]1([C@@H]2[C@H]([C@@H]2C(C1=CN(C)C)=O)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C24H38N2O7
reactant | triethylamine | 47.32 mmol, 6.6 mL | C(C)N(CC)CC | C6H15N
reactant | Diisobutylaluminium hydride | 50 mmol, 1N, 50 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | ammonium chloride | 30 mL | [Cl-].[NH4+]
solvent | tetrahydrofuran | 340 ml | O1CCCC1 | C4H8O
product | Di-tert-butyl (1S,2R,5R,6R)-2-[(tert-butoxycarbonyl)amino]-3-methylidene-4-oxobicyclo[3.1.0]hexane-2,6-dicarboxylate | 33.34 mmol, 12 g, 83.8% yield | C(C)(C)(C)OC(=O)N[C@@]1([C@@H]2[C@H]([C@@H]2C(C1=C)=O)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C22H33NO7
